US08809525B2
(3-Chloro-5-fluorophenyl)(oxo)acetaldehyde (27 g, 84%) was prepared from 3-chloro-5-fluoro acetophenone (30.0 g, 174.4 mmol) and selenium dioxide (21.28 g, 191.8 mmol) according to the typical procedure used for Preparation 1.

reactant | 3-chloro-5-fluoro acetophenone | 174.4 mmol, 30.0 g | CC(=O)C1=CC(=CC(=C1)Cl)F | C8H6ClFO
reactant | selenium dioxide | 191.8 mmol, 21.28 g | [Se](=O)=O | O2Se
product | (3-Chloro-5-fluorophenyl)(oxo)acetaldehyde | 27 g, 84% | ClC=1C=C(C=C(C1)F)C(C=O)=O | C8H4ClFO2
